US07067501B2
(+/−)-1-[2-(Biphenyl-4-yloxy)-phenyl]-3-methyl-piperazine
A mixture of 4-(2-bromo-phenoxy)-biphenyl (0.73 g, 2.25 mmol), rac-2-methylpiperazine (0.285 g, 0.285 mmol), Pd2 dba3 (0.022 g, 1 mol %), rac-binap (0.043 g, 3 mol %) and NaOBut (0.300 g, 3.12 mmol) in dry toluene (15 mL) under argon and stirred at 90° C. overnight. After cooling to room temperature the mixture is filtered and evaporated onto silica gel and and purified by column chromatography eluting with ethyl acetate/heptane 1:2. Yield: 0.264 g (34%). 1H NMR (CDCl3, 500 MHz) 7.55 (m, 2H), 7.49 (m, 2H), 7.38 (m, 2H), 7.27 (m, 1H), 7.10 (m, 1H), 6.90–7.00 (m, 5H), 3.30–3.35 (m, 2H), 2.88 (m, 1H), 2.62–2.80 (m, 3H), 2.30–2.40 (m, 1H) 1.60–2.00 (br, 1H), 0.99 (d, 3H); MS(m/z): 345.1.

reactant | 4-(2-bromo-phenoxy)-biphenyl | 2.25 mmol, 0.73 g | BrC1=C(OC2=CC=C(C=C2)C2=CC=CC=C2)C=CC=C1 | C18H13BrO
reactant | rac-2-methylpiperazine | 0.285 mmol, 0.285 g | CC1NCCNC1 | C5H12N2
reactant | rac-binap | 0.043 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.022 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (+/−)-1-[2-(Biphenyl-4-yloxy)-phenyl]-3-methyl-piperazine | C1(=CC=C(C=C1)OC1=C(C=CC=C1)N1CC(NCC1)C)C1=CC=CC=C1 | C23H24N2O
